US07091220B2
[(2-Methoxyphenyl)-(2-methyl-1H-indol-3-yl)-methyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 2-methyl-1H-indole and (2-methoxy-benzylidene)-dimethyl-ammonium chloride.

reactant | 2-methyl-1H-indole | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | (2-methoxy-benzylidene)-dimethyl-ammonium chloride | [Cl-].COC1=C(C=[N+](C)C)C=CC=C1
product | [(2-Methoxyphenyl)-(2-methyl-1H-indol-3-yl)-methyl]-dimethylamine | COC1=C(C=CC=C1)C(C1=C(NC2=CC=CC=C12)C)N(C)C | C19H22N2O
